US05071862
A mixture of 2-(bromophenyl)-2-(2,4-dichlorophenyl)-4-methyl-1,3-dioxolane (10 g.), 3-hydroxypyridine (3.8 g.) and potassium carbonate (5.5 g.) in N,N-dimethylacetamide (90 ml.) was refluxed with stirring for 18 hours. After the mixture was allowed to cool, it was poured into water and extracted with toluene. The toluene fraction, thereby obtained, was washed with 5% aqueous sodium hydroxide and evaporated to yield 3-[[2-(2,4-dichlorophenyl)-4-methyl-1,3-dioxolan-2-yl]methoxy]pyridine as an oil.

reactant | 2-(bromophenyl)-2-(2,4-dichlorophenyl)-4-methyl-1,3-dioxolane | 10 g | BrC1=C(C=CC=C1)C1(OCC(O1)C)C1=C(C=C(C=C1)Cl)Cl | C16H13BrCl2O2
reactant | 3-hydroxypyridine | 3.8 g | OC=1C=NC=CC1 | C5H5NO
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 90 ml | CN(C(C)=O)C | C4H9NO
product | 3-[[2-(2,4-dichlorophenyl)-4-methyl-1,3-dioxolan-2-yl]methoxy]pyridine | ClC1=C(C=CC(=C1)Cl)C1(OCC(O1)C)COC=1C=NC=CC1 | C16H15Cl2NO3
